US07393867B2
Method 3: 4-(Pyridin-2-ylsulfanyl)-6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide (IIa)
Treat 6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide (57 mg, 0.34 mmol) with NaH (19 mg, 0.78 mmol, 2.3 eq) in N,N-dimethylformamide (1 ml) at room temperature, under nitrogen for 45 minutes. Add 2,2′-dipyridyldisulfide (106 mg, 1.4 eq) and stir the mixture overnight at ambient temperature. Dilute the mixture with water and extract with ethyl acetate. Concentrate the ethyl acetate solution to give a residue which is purified by flash chromatography (ISCO, silica cartridge, elute with 5% methanol in methylene chloride (+1% 7N ammonia in methanol) to provide the title compound (32 mg, 32%).

reactant | 6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide | 0.34 mmol, 57 mg | S1C=CC2=C1NC(=C2)C(=O)N | C7H6N2OS
reactant | NaH | 0.78 mmol, 19 mg, 2.3 eq | [H-].[Na+]
reactant | 2,2′-dipyridyldisulfide | 106 mg, 1.4 eq | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(Pyridin-2-ylsulfanyl)-6H-thieno[2,3-b]pyrrole-5-carboxylic acid amide | 32 mg, 32% | N1=C(C=CC=C1)SC=1C2=C(NC1C(=O)N)SC=C2 | C12H9N3OS2
